US07923456B2
Step 1: 2-(2-Fluoro-4-iodophenylamino)-6-formylaminomethylnicotinic acid methyl ester
To a solution of 2-(2-fluoro-4-trimethylsilanylphenylamino)-6-formylamino methyl-nicotinic acid methyl ester (10.3 g, 27.4 mmol) in DCM (275 mL) at 0° C. was added dropwise iodine monochloride as a solution in DCM (54.9 mL, 1M, 54.9 mmol). The reaction mixture was stirred at 0° C. for 1 hour. The reaction mixture was washed with aqueous sodium metabisulfite (100 mL, 0.5 M) and the aqueous layer extracted twice with ethyl acetate (2×50 mL). The combined organic extracts were washed with brine (50 mL), dried (MgSO4), filtered and concentrated in vacuo to give the title compound as an orange gum (11.6 g, 100%). LCMS (Method B): RT=3.72 min, M+H+=430.

reactant | 2-(2-fluoro-4-trimethylsilanylphenylamino)-6-formylamino methyl-nicotinic acid methyl ester | 27.4 mmol, 10.3 g | COC(C1=C(N=C(C=C1)CNC=O)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C18H22FN3O3Si
reactant | iodine monochloride | ICl | ClI
solvent | DCM | 275 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 54.9 mmol, 1M, 54.9 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Fluoro-4-iodophenylamino)-6-formylaminomethylnicotinic acid methyl ester | 11.6 g, 100% | COC(C1=C(N=C(C=C1)CNC=O)NC1=C(C=C(C=C1)I)F)=O | C15H13FIN3O3
